US06797706B1
To a mixture of benzyl alcohol and DMF was added 60% sodium hydride under ice cooling and then 2-[cis-2-(tert-butoxycarbonylamino)cyclohexylamino]-6-chloro-4-(3-methylanilino)pyrimidine-5-carbonitrile was added thereto, followed by stirring at 60° C. for 40 minutes. Then, distilled water was added to the reaction liquid and the resulting precipitate was collected by filtration. The filtration product was treated in a similar manner to Reference Example 4 to obtain 2-(cis-2-aminocyclohexylamino)-4-benzyloxy-6-(3-methylanilino)pyrimidine-5-carboxyamide (colorless solid).

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-[cis-2-(tert-butoxycarbonylamino)cyclohexylamino]-6-chloro-4-(3-methylanilino)pyrimidine-5-carbonitrile | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)NC1=CC(=CC=C1)C)C#N)Cl | C23H29ClN6O2
reactant | DMF | CN(C)C=O | C3H7NO
product | 2-(cis-2-aminocyclohexylamino)-4-benzyloxy-6-(3-methylanilino)pyrimidine-5-carboxyamide | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)CC(=O)N)NC1=CC(=CC=C1)C | C26H32N6O2
